US09328067B2
N-[5-chloro-2-({3-[(methylsulfonyl)amino]benzyl}sulfanyl)phenyl]-1-benzofuran-2-sulfonamide
To a solution of N-{2-[(3-aminobenzyl)sulfanyl]-5-chlorophenyl}-1-benzofuran-2-sulfonamide (440 mg, 0.90 mmol) in pyridine (4 ml) was added methanesulfonyl chloride (70 μl, 0.90 mmol). The reaction was stirred at room temperature for 2 hours and was concentrated, diluted with 1M HCl, and extracted with EtOAc. The organic layer was dried over Na2SO4, and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel (4% EtOAc in hexane) to yield the title compound (344 mg, 67%).

reactant | N-{2-[(3-aminobenzyl)sulfanyl]-5-chlorophenyl}-1-benzofuran-2-sulfonamide | 0.90 mmol, 440 mg | NC=1C=C(CSC2=C(C=C(C=C2)Cl)NS(=O)(=O)C=2OC3=C(C2)C=CC=C3)C=CC1 | C21H17ClN2O3S2
reactant | methanesulfonyl chloride | 0.90 mmol, 70 μl | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 4 ml | N1=CC=CC=C1 | C5H5N
product | N-[5-chloro-2-({3-[(methylsulfonyl)amino]benzyl}sulfanyl)phenyl]-1-benzofuran-2-sulfonamide | 344 mg, 67% | ClC=1C=CC(=C(C1)NS(=O)(=O)C=1OC2=C(C1)C=CC=C2)SCC2=CC(=CC=C2)NS(=O)(=O)C | C22H19ClN2O5S3
